* /home/abhi/esim-workspace/buck_convertor/buck_convertor.cir

.include NPN.lib
.include PNP.lib
v1  in gnd 12
l1  net-_l1-pad1_ out 1.8m
c1  out gnd 3u
r1  out gnd 18
* u1  in plot_v1
* u3  out plot_v1
* u2  pwm plot_v1
v2  pwm gnd pulse(0 15 0 1n 1n 33u 40u)
q1 net-_l1-pad1_ pwm in Q2N2222
q2 gnd pwm net-_l1-pad1_ Q2N2907A
.tran 5e-06 2000e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
plot v(pwm)
.endc
.end
